US07560558B2
Compound 432: 3-(7-Chloroquinolin-4-yloxy)-5,6,5′-trimethyl-[2,2′]-bipyridine
Dimethyl sulfoxide (2 ml) was added to 5,6,5′-trimethyl-[2,2′]bipyridin-3-ol (50 mg), 4,7-dichloroquinoline (139 mg), and cesium carbonate (228 mg), and the mixture was stirred at 140° C. for 5 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (77 mg, yield 94%).

reactant | Dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 5,6,5′-trimethyl-[2,2′]bipyridin-3-ol | 50 mg | CC=1C=C(C(=NC1C)C1=NC=C(C=C1)C)O | C13H14N2O
reactant | 4,7-dichloroquinoline | 139 mg | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | cesium carbonate | 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | 3-(7-Chloroquinolin-4-yloxy)-5,6,5′-trimethyl-[2,2′]-bipyridine | 77 mg, yield 94% | ClC1=CC=C2C(=CC=NC2=C1)OC=1C(=NC(=C(C1)C)C)C1=NC=C(C=C1)C | C22H18ClN3O
